US07932262B2
Step 2. Preparation of N-(2-methoxy-5-(trifluoromethyl)phenyl) pivalamide
To a solution of 2-methoxy-5-(trifluoromethyl) aniline (1 eq) in DCM at 0° C. was added TEA (1 eq) followed by dropwise addition of pivaloyl chloride (1 eq). The reaction mixture was warmed to room temperature and left stirred overnight. Diluted with DCM and washed with satd. sodium bicarbonate, water, brine and dried over sodium sulfate. Filtered, evaporated and dried under vacuum to provide pure product as an off white solid in 95% yield. ES/MS m/z 276.1 (MH+).

reactant | 2-methoxy-5-(trifluoromethyl) aniline | 1 eq | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
reactant | pivaloyl chloride | 1 eq | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2-methoxy-5-(trifluoromethyl)phenyl) pivalamide | 95% yield | COC1=C(C=C(C=C1)C(F)(F)F)NC(C(C)(C)C)=O | C13H16F3NO2
